Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3][C:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]/[C:4](=[C:6]\[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:5],2.472889148
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10].[O:11][H:12],5.43935469357
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2].[O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11],5.92155497463
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([H:5])[H:6].[O:7]=[C:8][C:9]([H:10])([H:11])[H:12],0.69796658241
[C:4]([H:5])(=[C:6]=[C:7]([H:8])[H:9])[O:10][H:11].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[O:10][H:11],-2.78264589315
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[O:6][H:7]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-2.59092227977
[H:1][C:2]=[C:3]([H:4])[H:5].[H:6]>>[H:1][C:2][C:3]([H:4])([H:5])[H:6],-1.5505173944
[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])#[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2],4.43239718729
[C:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]#[C:2][H:3].[O:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-0.337575987789
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:10][H:11].[H:9],4.20546483809
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[O:8])[H:9]>>[C:7](=[O:8])[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],3.29724892199
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-2.87228458013
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10]>>[C:1]#[C:2][C:3]/[C:4]([H:5])=[C:7](\[H:8])[C:9][H:10].[H:6],2.15565539636
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]#[C:7][C:8]([H:9])([H:10])[O:11][H:12].[H:6],1.96597679983
[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9].[O:1]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],-7.68927065522
[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19],-1.01210975099
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[H:7]>>[C:5]([H:6])[H:7].[O:1]=[C:2][O:3][H:4],5.52780703668
[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])=[C:7][H:8]>>[O:1]=[C:2]([H:3])/[C:4]([O:5][H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11],-6.99385536505
[H:1][O:2][C@:3]([H:4])([C:5][O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3](=[C:5]\[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:4],2.50163058539
[H:1][O:2][O:3]/[C:4]([C:5]([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2].[O:3]=[C:4]([C:5]([H:6])[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],1.33609126187
[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])[H:8].[H:9],4.72399096809
[H:13].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([C:7]([H:8])([H:9])[H:10])=[C:11](\[H:12])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.82451628768
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],4.84273863135
[H:1][O:2]/[C:3]=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2]=[C:3]=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],1.02353518377
[C:2]([H:3])([H:4])[C@:5]([H:6])([C:7]#[C:8][H:9])[O:10][H:11].[O:1]>>[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([C:7]#[C:8][H:9])[O:10][H:11],-4.25398134011
[C:8]([H:9])([H:10])[O:11][H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12],-3.61479239054
[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-3.78090711508
[H:1][C:2][O:3][C:4]#[C:5][H:6].[H:7]>>[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7],-2.52043747811
[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6][H:7].[O:8][H:9],6.16686408997
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10]>>[C:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2][O:3][C:4][H:5],6.961496725439999
[O:1][C@@:2]([H:3])([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([H:3])[C:12]([H:13])([H:14])[H:15].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],0.6912196404690001
